US07381719B2
Combine 6-[4-(2-Methylamino-ethyl)-phenoxy]-nicotinamide (135 mg, 0.5 mmol), benzaldehyde (53 μL, 0.52 mmol), sodium triacetoxyborohydride (0.21 g, 1.0 mmol), acetic acid (30 μL, 0.52 mmol), tetrahydrofuran (1 mL), and 1,2-dichloroethane (5 mL) then stir at room temperature for 18 hours. Dilute the reaction with saturated aqueous sodium bicarbonate solution and extract with ethyl acetate (3×50 mL). Dry the combined ethyl acetate extracts with sodium chloride/magnesium sulfate, filter, and concentrate on a rotary evaporator to yield 200 mg of the crude product. The crude product is purified by flash column chromatography on silica gel eluting with (0.5% conc. ammonium hydroxide/5% ethanol) to (1% conc. ammonium hydroxide/10% ethanol) in chloroform to yield 6-{4-[2-(benzyl-methyl-amino)-ethyl]-phenoxy}-nicotinamide (106 mg, 0.29 mmol): m/z=362.07 (M+1); 1H NMR (CDCl3, 300.00 MHz): 8.58 (s, 1H); 8.16 (dd, 3.0 Hz, 1H); 7.33-7.22 (m, 7H); 7.05 (d, 2H); 6.95 (d, 1H); 5.86 (br s, 2H); 3.63 (s, 2H); 2.89-2.72 (m, 4H); 2.34 (s, 3H), HPLC=100% (5/95 to 95/5 ACN/(0.1%TFA in water) over 10 minutes, Zorbax® SB-Phenyl 4.6 mm×15 cm×5 micron, λ=254 nM.

reactant | 6-[4-(2-Methylamino-ethyl)-phenoxy]-nicotinamide | 0.5 mmol, 135 mg | CNCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C15H17N3O2
reactant | benzaldehyde | 0.52 mmol, 53 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 1.0 mmol, 0.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.52 mmol, 30 μL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 6-{4-[2-(benzyl-methyl-amino)-ethyl]-phenoxy}-nicotinamide | 0.29 mmol, 106 mg | C(C1=CC=CC=C1)N(CCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)C | C22H23N3O2
